US04234594
1-Acetyl-2[1-(3,4-dichlorophenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline
5-Amino-3-methyl-1-(3,4-dichlorophenyl)pyrazole (16.6 g.) and 1-acetyl-2-imidazolinone (10.6 g.) were reacted as described in Example I to give 8.5 g. of product, mp 156°-157°.

reactant | 5-Amino-3-methyl-1-(3,4-dichlorophenyl)pyrazole | 16.6 g | NC1=CC(=NN1C1=CC(=C(C=C1)Cl)Cl)C | C10H9Cl2N3
reactant | 1-acetyl-2-imidazolinone | 10.6 g | C(C)(=O)N1C=NC(C1)=O | C5H6N2O2
product | 1-Acetyl-2[1-(3,4-dichlorophenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline | C(C)(=O)N1C(=NCC1)NC1=CC(=NN1C1=CC(=C(C=C1)Cl)Cl)C | C15H15Cl2N5O
